### PR TITLE
Refl graph examples

### PR DESCRIPTION
**Pull request by IanRay11**
We organize a variety of examples that show how to use reflexive graphs and reflexive graph lens to characterize, we also provide a comparison with this development and the existing SNS development.

### CODE REVIEW

**Comment by IanRay11** [comment]
Ready for review @jonsterling @tomdjong.

File: source/ReflexiveGraphs/Examples.lagda [hunk 1]
```diff
@@ -0,0 +1,710 @@
...
+
+\end{code}
+
+This is simply a sanity check for the theory we have developed. We now move
+towards a more unified approach to SIP, by working through some illustrative
+examples.
+
+Example 1:
+
+We give a detailed characaterization of the identity type of cones over a
```
Comment (tomdjong) [inline source/ReflexiveGraphs/Examples.lagda]: _characterization_

File: source/ReflexiveGraphs/Examples.lagda [hunk 2]
```diff
@@ -0,0 +1,710 @@
...
+module _ (fe : Fun-Ext) {X : 𝓤 ̇ } {Y : 𝓥 ̇ } {Z : 𝓦 ̇ }
+         (f : X → Z) (g : Y → Z) (A : 𝓣 ̇)
+       where
+
+ open pullback f g
+
+\end{code}
+
+We define reflexive graph structure on the base of a cone whose underlying type
+must be (A → X) × (A → Y) with edges corresponding to the pair of homotopes
```
Comment (tomdjong) [inline source/ReflexiveGraphs/Examples.lagda]: _homotopies_

File: source/ReflexiveGraphs/Examples.lagda [hunk 3]
```diff
@@ -0,0 +1,710 @@
...
+  : {x y : ⟨ 𝓐 ⟩}
+  → (e : x ≈⟨ 𝓐 ⟩ y)
+  → push e ∼ transport-along-≈ 𝓐 ua-𝓐 (lens-push-fam 𝓛) e
+ fundamental-theorem-of-transport {x} {y} e u
+  = edge-to-id (𝓑 y , ua-𝓛 y)
+     (fundamental-theorem-of-transport-for-edges 𝓐 ua-𝓐 𝓛 e u)
+
+\end{code}
+
+It is worth noting that this result follows immediatly from the fact that
```
Comment (tomdjong) [inline source/ReflexiveGraphs/Examples.lagda]: _immediately_

File: source/ReflexiveGraphs/Examples.lagda [hunk 4]
```diff
@@ -0,0 +1,710 @@
...
+  → ((X , _·X_) ＝ (Y , _·Y_))
+   ≃ (Σ e ꞉ X ≃ Y , ((x y : X) → ⌜ e ⌝ (x ·X y) ＝ (⌜ e ⌝ x ·Y ⌜ e ⌝ y)))
+ ∞-Magma-＝-char (X , _·X_) (Y , _·Y_)
+  = id-equiv-edge
+     (∞-Magma-total-refl-graph , ∞-Magma-total-univalent-refl-graph)
+      (X , _·X_) (Y , _·Y_)
+
+\end{code}
+
+We may instead utilize the unbiased lense machinary, which allows us to
```
Comment (tomdjong) [inline source/ReflexiveGraphs/Examples.lagda]: _machinery_

File: source/ReflexiveGraphs/Constructions.lagda [hunk 5]
```diff
@@ -164,6 +164,8 @@ syntax discrete-reflexive-graph A = Δ A
 codiscrete-reflexive-graph : 𝓤 ̇ → Refl-Graph 𝓤 𝓤
 codiscrete-reflexive-graph A = (A , (λ _ _ → 𝟙) , λ _ → ⋆)
 
+syntax codiscrete-reflexive-graph A = ∇ A
```
Comment (tomdjong) [inline source/ReflexiveGraphs/Constructions.lagda]: Just curious: why not simply `∇ = codiscrete-reflexive-graph`?

**Review by tomdjong — COMMENTED** [review]
Thanks @IanRay11. I'll take a closer look tomorrow with possibly more comments.
Will this be the last PR in this series, btw?

**Comment by IanRay11** [comment]
@tomdjong this is the last in the series of developments I did last semester. But the plan was always to get this machinery in place so we could continue to explore using reflexive graphs for more novel investigations. So I will potentially continue to use TypeTopology as a blackboard for this, and with that make future PRs.

File: source/ReflexiveGraphs/Examples.lagda [hunk 6]
```diff
@@ -0,0 +1,690 @@
+Ian Ray. 4th November 2025.
+
+Minor changes and merged into TypeToplogy in June 2026.
+
+We provide some examples of using (displayed) univalent reflexive graphs and
+reflexive graph lenses to characterize certain identity types, characterize
+transport, and observe the relationship between the reflexive graph approach to
+SIP and the existing approaches available in the TypeTopology library.
```
Comment (tomdjong) [inline source/ReflexiveGraphs/Examples.lagda]: _the_ SIP (and maybe spell out SIP)

File: source/ReflexiveGraphs/Examples.lagda [hunk 7]
```diff
@@ -0,0 +1,690 @@
...
+ = id-equiv-edge ((∐ a ˸ A , (Δ (B a))) , I) (a , b) (a' , b')
+ where
+  I : is-univalent-refl-graph (∐ a ˸ A , (Δ (B a)))
+  I = univalence-closed-under-Σ A (λ a → Δ (B a))
+       (λ a → discrete-refl-graph-is-univalent (B a))
+
+\end{code}
+
+This is simply a sanity check for the theory we have developed. We now move
+towards a more unified approach to SIP, by working through some illustrative
```
Comment (tomdjong) [inline source/ReflexiveGraphs/Examples.lagda]: _the_ SIP (since it's _the principle_, right?)

File: source/ReflexiveGraphs/Examples.lagda [hunk 8]
```diff
@@ -0,0 +1,690 @@
...
+   : Fun-Ext
+   → {x y : ⟨ 𝓐 ⟩}
+   → (e : x ≈⟨ 𝓐 ⟩ y)
+   → push e ∼ transport-along-≈ 𝓐 ua-𝓐 (lens-push-fam 𝓛) e
+  unique-transport-observation fe e u
+   = ap (λ - → lens-push (𝓑 , -) e u) (oplax-＝-transport-structure fe)
+
+\end{code}
+
+If one instantiates the previous theorem with the reflexive graph on a univalent
```
Comment (tomdjong) [inline source/ReflexiveGraphs/Examples.lagda]: I think it might be worth actually doing this, for the sake of exposition.

File: source/ReflexiveGraphs/Examples.lagda [hunk 9]
```diff
@@ -0,0 +1,690 @@
...
+Appealing simply to line counting one could not justify the latter approach to
+characterizing the identity type of ∞-Magma. But we would like to point out a
+few advantages. We get the displayed reflexive graph (and its univalence) for
+free just by identifying what we want the left and right hand side of the
+equation relating the mixed variance data to be. This offers a blueprint for
+characterizing mixed variance structures of increasingly complicated nature
+where "guessing" (or maybe it is more apt to say "being clever") is not
+feasible.
+
+TODO: Currently we are exploring a number of results of flavor similar to the
```
Comment (tomdjong) [inline source/ReflexiveGraphs/Examples.lagda]: _of a similar flavor_ (not sure)

File: source/ReflexiveGraphs/Examples.lagda [hunk 10]
```diff
@@ -0,0 +1,690 @@
...
+     II = pr₁-≃ (x ≈⟨ 𝓐 ⟩ y) (λ - → lens-push 𝓛 - u ＝ v)
+           (λ - → pointed-props-are-singletons (prop-lens y (lens-push 𝓛 - u) v)
+            (props-are-sets (prop-lens y)))
+
+\end{code}
+
+Example 5:
+
+We use the previous fact to give a characterization of the identity type of
+hSets. Although, we make no claims that this characterization of hSet identity
```
Comment (tomdjong) [inline source/ReflexiveGraphs/Examples.lagda]: _Although we [...], it suggests_

File: source/ReflexiveGraphs/Examples.lagda [hunk 11]
```diff
@@ -0,0 +1,690 @@
...
+module _ (𝓤 : Universe) (ua : is-univalent 𝓤) (fe : Fun-Ext) where
+
+ hSet-lens : Oplax-Covariant-Lens 𝓤 𝓤 (universe-refl-graph 𝓤)
+ hSet-lens = (I , II)
+  where
+   I : 𝓤 ̇ → Refl-Graph 𝓤 𝓤
+   I X = Δ (is-set X)
+   II : oplax-covariant-lens-structure 𝓤 𝓤 (universe-refl-graph 𝓤) I
+   II = record
+        {push = equiv-to-set'
```
Comment (tomdjong) [inline source/ReflexiveGraphs/Examples.lagda]: Why not just write `equiv-to-set ∘ ≃-sym` here and remove `equiv-to-set'`?
Alternatively, consider adding `equiv-to-set'` to ` `UF.Sets-Properties`.

File: source/ReflexiveGraphs/index.lagda
Comment (tomdjong) [inline source/ReflexiveGraphs/index.lagda]: Since Jon's paper is the primary source, I think it would make sense to include a complete reference, e.g.
```
Jonathan Sterling. 'Reflexive graph lenses in univalent foundations'.
In: Mathematical Structures in Computer Science 36, e21 (2026), pp. 1–48.
DOI: 10.1017/S0960129526100565
```

**Review by tomdjong — APPROVED** [review]

File: source/ReflexiveGraphs/Examples.lagda (hunk 8 above)
Comment (IanRay11) [reply source/ReflexiveGraphs/Examples.lagda]: Thanks for pushing this, it was good that I spellled it out and saw that it didn't definitionally reduce like I thought...

File: source/ReflexiveGraphs/Examples.lagda [hunk 12]
```diff
@@ -0,0 +1,720 @@
+Ian Ray. 4th November 2025.
+
+Minor changes and merged into TypeToplogy in June 2026.
```
Comment (tomdjong) [inline source/ReflexiveGraphs/Examples.lagda]: This will have to be updated to July now.

**Comment by tomdjong** [comment]
@martinescardo Could you take a look as well please?

File: source/ReflexiveGraphs/Examples.lagda [hunk 13]
```diff
@@ -0,0 +1,720 @@
...
+\end{code}
+
+That this reflexive graph is univalent is automatic as univalence is closed
+under products, functions and the discrete reflexive graph.
+
+\begin{code}
+     
+ cone-base-is-univalent : is-univalent-refl-graph cone-base-refl-graph
+ cone-base-is-univalent = univalence-closed-under-×
+                             (A ➙ (Δ X)) (A ➙ (Δ Y))
```
Comment (martinescardo) [inline source/ReflexiveGraphs/Examples.lagda]: Indent by only 1 space.

File: source/ReflexiveGraphs/Examples.lagda [hunk 14]
```diff
@@ -0,0 +1,720 @@
...
+      (λ - → discrete-refl-graph-is-univalent (f (p -) ＝ g (q -))) H)
+  where
+   I : fan ([ cone-displayed-refl-graph ] (p , q)) H
+     ≃ fan (∏ x ˸ A , (Δ (f (p x) ＝ g (q x)))) H
+   I = (Σ H' ꞉ commutative-square (p , q) ,
+        ∼-trans H ∼-refl ∼ ∼-trans ∼-refl H')              ≃⟨ II ⟩
+       (Σ H' ꞉ commutative-square (p , q) , H ∼ H')        ■
+    where
+     II = Σ-cong (λ - → transport-≃ (λ - → H ∼ -)
+          (dfunext fe (λ x → refl-left-neutral)))
```
Comment (martinescardo) [inline source/ReflexiveGraphs/Examples.lagda]: Indent by 1 space.

File: source/ReflexiveGraphs/Examples.lagda [hunk 15]
```diff
@@ -0,0 +1,720 @@
...
+   {X Y : 𝓤 ̇ }
+   (𝕗 : X ≃ Y)
+   (ua : is-univalent 𝓤)
+ → T 𝕗 ∼ transport-along-≃ ua S 𝕗
+transport-along-≃-fundamental-lemma' {𝓤} {𝓥} S T T-refl {X} {Y} 𝕗 ua s
+ = I s ∙ II s ⁻¹
+ where
+  I : T 𝕗 ∼ transport-along-≈ (universe-refl-graph 𝓤)
+             (univalent-universe-is-univalent-family 𝓤 ua)
+              S 𝕗
```
Comment (martinescardo) [inline source/ReflexiveGraphs/Examples.lagda]: Do the last two lines start in the same column?

File: source/ReflexiveGraphs/Examples.lagda [hunk 16]
```diff
@@ -0,0 +1,720 @@
...
+  I = fundamental-theorem-of-transport (universe-refl-graph 𝓤)
+       (univalent-universe-is-univalent-family 𝓤 ua)
+       ((λ - → Δ (S -)) , record {push = T ; push-refl = T-refl})
+       (λ - → discrete-refl-graph-is-univalent (S -)) 𝕗
+  II : transport-along-≃ ua S 𝕗 ∼ transport-along-≈ (universe-refl-graph 𝓤)
+                                   (univalent-universe-is-univalent-family 𝓤 ua)
+                                    S 𝕗
+  II = fundamental-theorem-of-transport (universe-refl-graph 𝓤)
```
Comment (martinescardo) [inline source/ReflexiveGraphs/Examples.lagda]: Same question of the last two lines.

File: source/ReflexiveGraphs/Examples.lagda [hunk 17]
```diff
@@ -0,0 +1,720 @@
...
+    where
+     obs' : canonical-map ι ρ s t ∼ id-to-edge ([ (B , I , II) ] X)
+     obs' refl = refl
+   III : is-displayed-univalent-refl-graph (universe-refl-graph 𝓤) (B , I , II)
+   III X u = id-to-edge-equiv-implies-prop-fans ([ (B , I , II) ] X)
+              (λ s t → transport is-equiv (obs s t) (θ s t)) u
+
+\end{code}
+
+TODO characterize ＝ of displayed refl graphs and finish the proof of
```
Comment (martinescardo) [inline source/ReflexiveGraphs/Examples.lagda]: Add a full stop after TODO.

File: source/ReflexiveGraphs/Examples.lagda [hunk 18]
```diff
@@ -0,0 +1,720 @@
...
+Appealing simply to line counting one could not justify the latter approach to
+characterizing the identity type of ∞-Magma. But we would like to point out a
+few advantages. We get the displayed reflexive graph (and its univalence) for
+free just by identifying what we want the left and right hand side of the
+equation relating the mixed variance data to be. This offers a blueprint for
+characterizing mixed variance structures of increasingly complicated nature
+where "guessing" (or maybe it is more apt to say "being clever") is not
+feasible.
+
+TODO: Currently we are exploring a number of results of similar flavor to the
```
Comment (martinescardo) [inline source/ReflexiveGraphs/Examples.lagda:629]: Above you can add ":" instead of full stop, like here. Or vice versa, as you prefer. Just be consistent.

File: source/ReflexiveGraphs/Examples.lagda [hunk 19]
```diff
@@ -0,0 +1,720 @@
...
+ → (x , u) ≈⟨ 𝓐 ﹐ disp⁺ 𝓐 𝓛 ⟩ (y , v) ≃ x ≈⟨ 𝓐 ⟩ y
+univalent-prop-lens-edge-char 𝓐 𝓛 ua-𝓛 prop-lens x y u v
+ = (x , u) ≈⟨ 𝓐 ﹐ disp⁺ 𝓐 𝓛 ⟩ (y , v)
+                                                            ≃⟨by-definition⟩
+   (Σ p ꞉ x ≈⟨ 𝓐 ⟩ y , lens-push 𝓛 p u ≈⟨ lens-push-graph 𝓛 y ⟩ v)
+                                                            ≃⟨ I ⟩
+   (Σ p ꞉ x ≈⟨ 𝓐 ⟩ y , lens-push 𝓛 p u ＝ v)
+                                                            ≃⟨ II ⟩
+   x ≈⟨ 𝓐 ⟩ y                                               ■
+    where
```
Comment (martinescardo) [inline source/ReflexiveGraphs/Examples.lagda:650]: I wonder if you really need to break the lines in the above chain of equivalences.

**Review by martinescardo — COMMENTED** [review]
Very nice! I only have cosmetic requests. 

@tomdjong When this is done, feel free to merge. Thanks.

File: source/ReflexiveGraphs/Examples.lagda (hunk 16 above)
Comment (IanRay11) [reply source/ReflexiveGraphs/Examples.lagda]: I'll just give names here which will make the lines fit better.

File: source/ReflexiveGraphs/Examples.lagda (hunk 19 above)
Comment (IanRay11) [reply source/ReflexiveGraphs/Examples.lagda:650]: I'll use the shorter ≃⟨refl⟩ instead.

**Comment by tomdjong** [comment]
@IanRay11 I'll merge, OK?

**Comment by IanRay11** [comment]
Yes, thank you both for the review.

**Comment by tomdjong** [comment]
You're welcome and thanks for the nice PR!
